US07893085B2
3-(2-Fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-hydroxyethoxy)-amide
3-(2-Fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide (91 mg, 0.18 mmol) was dissolved in ethanol (2 ml) and 1M hydrochloric acid (0.5 ml) added. The mixture was allowed to stir for 2 hours then evaporated to dryness to give a residue. The resultant residue was partitioned between aqueous saturated NaHCO3 solution (3 ml), water (20 ml) and DCM (20 ml). The organic layer was separated, dried over sodium sulfate, filtered and evaporated to give a yellow solid. The resultant yellow solid was purified by flash chromatography (Si-SPE, DCM:MeOH, gradient 100:0 to 98:2) followed by reversed phase HPLC (Phenomenex Luna 5 phenyl/hexyl, 0.1% TFA in water on a gradient of methanol 95:5 to 40:60) to afford the title compound as a yellow solid (34 mg, 40%). LCMS (method A): RT=6.00 min, M+H+=474. 1H NMR (d4-MeOH, 400 MHz) 8.68 (s, 1H), 8.44 (d, J=5.7 Hz, 1H), 7.98 (dd, J=5.7 Hz, 0.8 Hz, 1H), 7.55 (dd, J=10.5 Hz, 1.8 Hz, 1H), 7.35-7.40 (m, 1H), 6.7 (dd, J=8.5 Hz, 8.5 Hz, 1H), 3.98 (t, J=Hz, 2H), 3.74 (t, J=Hz, 2H).

reactant | 3-(2-Fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.18 mmol, 91 mg | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)I)F | C18H15FIN3O3S
reactant | hydrochloric acid | 1M, 0.5 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-(2-Fluoro-4-iodo-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid (2-hydroxyethoxy)-amide | 34 mg, 40% | OCCONC(=O)C1=C(C=2C=NC=CC2S1)NC1=C(C=C(C=C1)I)F | C16H13FIN3O3S
